US04312876
Trans-4-(4-acetoxyphenoxy)-1-methyl-3-phenylpiperidine
A suspension of 3.21 g of trans-4-(4-hydroxyphenoxy)-1-methyl-3-phenylpiperidine in 150 ml of dry chloroform containing 1.72 ml of triethylamine is cooled in a cold water bath under nitrogen while 0.88 ml of acetyl chloride is added via syringe. After 3.5 hours at room temperature another 0.43 ml of triethylamine and 0.22 ml of acetyl chloride are added. After an additional 30 minutes stirring, the solvent is removed in vacuo and the residue is triturated with a mixture of ether (150 ml) and hexane (100 ml). The mixture is then filtered and the solid washed once with ether. The filtrate is concentrated in vacuo to an oil which crystallizes upon standing to a pale yellow oily solid. The oil is dissolved in 50 ml of boiling hexane and filtered. The filtrate is concentrated in vacuo to an oil which crystallizes under high vacuum to a nearly colorless, crystalline solid. The solid is dissolved in 25 ml of boiling hexane and the solution is allowed to cool. After standing overnight at room temperature the mixture is filtered, the solid washed with hexane and dried to afford product as colorless crystals, mp 79.5°-82° C.

reactant | trans-4-(4-hydroxyphenoxy)-1-methyl-3-phenylpiperidine | 3.21 g | OC1=CC=C(O[C@H]2[C@@H](CN(CC2)C)C2=CC=CC=C2)C=C1 | C18H21NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.88 ml | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 0.43 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.22 ml | C(C)(=O)Cl | C2H3ClO
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | Trans-4-(4-acetoxyphenoxy)-1-methyl-3-phenylpiperidine | C(C)(=O)OC1=CC=C(O[C@H]2[C@@H](CN(CC2)C)C2=CC=CC=C2)C=C1 | C20H23NO3
